US04898872
1-Bromo-phthalazin-4-one
A mixture of phthalhydrazide (3.2 g) and phosphorus pentabromide (19.0 g) was heated with stirring in carbon tetrabromide (50 g) at 125° for 16 hours. The cooled mixture was poured into water (50 cm3) and the product collected by filtration. The solid product was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with diethyl ether:dichloromethane, 1:3 by volume. Combination and evaporation of appropriate fractions afforded the title compound, m.p. 268°-271° (1.5 g).

reactant | phthalhydrazide | 3.2 g | C(C=1C(C(=O)NN)=CC=CC1)(=O)NN | C8H10N4O2
reactant | phosphorus pentabromide | 19.0 g | P(Br)(Br)(Br)(Br)Br | Br5P
reactant | water | 50 cm3 | O | H2O
solvent | carbon tetrabromide | 50 g | C(Br)(Br)(Br)Br | CBr4
product | 1-Bromo-phthalazin-4-one | BrC1=NNC(C2=CC=CC=C12)=O | C8H5BrN2O
